US04596872
8-(4-Pyridinyl)imidazo[1,2-a]pyridine
Combine 15 g (0.10 mol) of cyclopropyl 4-pyridinyl ketone with 30 g (0.44 mol) of imidazole and heat to 180°-200° C. for 24 hr. Isolation from 200 g silica gel using 5% methanol/methylene chloride followed by crystallization from ether provides the title compound.

reactant | cyclopropyl 4-pyridinyl ketone | 0.10 mol, 15 g | N1=CC=C(C=C1)C(=O)C1CC1 | C9H9NO
reactant | imidazole | 0.44 mol, 30 g | N1C=NC=C1 | C3H4N2
product | 8-(4-Pyridinyl)imidazo[1,2-a]pyridine | N1=CC=C(C=C1)C=1C=2N(C=CC1)C=CN2 | C12H9N3
